US04477464
A mixture of 3.06 g of 3,3-dichloro-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one, 30 ml of glacial acetic acid, 2.2 g of anhydrous sodium acetate and 86 mg of 5% palladium on charcoal is hydrogenated at atmospheric pressure until the theoretical amount of hydrogen has been absorbed. The suspension is filtered through celite and the solids are washed with 5 ml of acetic acid. Concentration of the filtrate and treatment of the residue with 17 ml of water for 30 min. affords 3-chloro-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one.

reactant | 3,3-dichloro-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one | 3.06 g | ClC1(CN(C2=C(NC1=O)C=CC=C2)C)Cl | C10H10Cl2N2O
reactant | sodium acetate | 2.2 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 86 mg | [Pd] | Pd
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-chloro-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one | ClC1CN(C2=C(NC1=O)C=CC=C2)C | C10H11ClN2O
